US07176310B1
A slurry of potassium trimethylsilyl oxide (90% tech., 40 g, 0.31 mol) in 1,2-dimethoxyethane (300 mL) was added, slowly over 20 min, to a solution of ethyl-4-chloro-2-methylthio-5-pyrimidinecarboxylate (Aldrich, 15 g, 64 mmol) in 1,2-dimethoxyethane (100 mL). Said addition, being mildly exothermic, may warrant the use of an ice bath to maintain ambient temperature conditions during addition. After addition was complete, the resulting suspension was stirred at ambient temperature for 1 h, then warmed to reflux for 36 h, then allowed to cool to ambient temperature. Reaction mixture was quenched with 1 M HCl(aq), then extracted with ethyl acetate and dried using sodium sulfate to produce a crude solid (11 g). Said crude solid was then recrystallized in ethyl acetate to afford 4-hydroxy-2-methylsulfanylpyrimidine-5-carboxylic acid as a white solid (8.8 g, 47 mmol, 73% yield). MS (−ESI) m/z 185 (M−, 100). An aliquot of this material (3.00 g, 16.1 mmol) was diluted with thionyl chloride (90 mL) followed by DMF (0.20 mL) and the resulting solution was warmed to reflux. After 1 hour at reflux, the solution was allowed to cool to ambient temperature and was concentrated in vacuo to afford a beige solid which was triturated once from hot toluene and then once again from hot hexanes (i.e., in both instances the soluble material was the desired fraction). This afforded, after concentration in vacuo, the titled compound as a white solid (3.90 g, 15.6 mmol, 97% yield). 1H NMR (300 MHz, CDCl3) δ 9.15 (s, 1H), 2.63 (s, 3H).

reactant | potassium trimethylsilyl oxide | 0.31 mol, 40 g | C[Si](C)(C)O[Si](C)(C)C.[K]
reactant | ethyl-4-chloro-2-methylthio-5-pyrimidinecarboxylate | 64 mmol, 15 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)Cl | C8H9ClN2O2S
solvent | 1,2-dimethoxyethane | 300 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
product | 4-hydroxy-2-methylsulfanylpyrimidine-5-carboxylic acid | 47 mmol, 8.8 g, 73% yield | OC1=NC(=NC=C1C(=O)O)SC | C6H6N2O3S
